data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_704547_0,[C:1]([C:4](=[C:5]([C:2]([H:13])([H:14])[H:18])[C:3]([H:15])([H:16])[H:17])/[N:8]=[N:7]\[O:6][H:9])([H:10])([H:11])[H:12]>>[C:1]([C:4]1=[N:8][N:7]([O:6][H:9])[C:5]1([C:2]([H:13])([H:14])[H:18])[C:3]([H:15])([H:16])[H:17])([H:10])([H:11])[H:12],61.07457500003534
MR_290417_1,[C:1]([C:4](=[O:7])[H:13])([O:5]/[C:2]([N:3]([H:8])[H:9])=[N:6]\[H:10])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:4]([O:7]/[C:2]([N:3]([H:8])[H:9])=[N:6]\[H:10])([H:13])[O:5]1,68.01974500001407
MR_588710_0,[C:1]([O:3][N:5]=[C:2]([H:8])[H:9])([O:4][H:7])=[O:6]>>[C:1]([C:2]([N:5]=[O:3])([H:8])[H:9])([O:4][H:7])=[O:6],69.70521000000332
MR_586337_0,[C:1](/[C:2]([C:4](=[C:5]([H:13])[H:14])[H:9])=[N:6]/[N:3]([H:7])[H:8])([H:10])([H:11])[H:12]>>[C:1]([C:2]1=[C:4]([H:9])[C:5]([H:13])([H:14])[N:6]1[N:3]([H:7])[H:8])([H:10])([H:11])[H:12],46.87864249995769
MR_448553_0,[C:1]1([N:6]([H:11])[H:12])([H:10])[C:5]([N:4]([C:2]([H:13])([H:14])[H:18])[C:3]([H:15])([H:16])[H:17])([O:8][H:9])[C:7]1([H:19])[H:20]>>[C:1]([C:5]([N:4]([C:2]([H:13])([H:14])[H:18])[C:3]([H:15])([H:16])[H:17])=[C:7]([H:19])[H:20])([N:6]([H:11])[H:12])([O:8][H:9])[H:10],56.66199500001156
MR_298921_1,[C:1]([N:4](/[C:5]([N:7]([H:10])[H:11])=[N:9]\[H:12])/[C:6]([C:3]([H:19])([H:20])[H:21])=[N:8]\[C:2]([H:16])([H:17])[H:18])([H:13])([H:14])[H:15]>>[C:1](/[N:4]=[C:6](\[C:3]([H:19])([H:20])[H:21])[N:8]([C:2]([H:16])([H:17])[H:18])/[C:5]([N:7]([H:10])[H:11])=[N:9]\[H:12])([H:13])([H:14])[H:15],41.015282500029855
MR_18454_0,[C:1]([C:3](/[C:4]([C:2]([H:13])([H:14])[H:15])=[C:5](/[O:6][H:8])[H:9])=[O:7])([H:10])([H:11])[H:12]>>[C:1]([C:3]1=[C:4]([C:2]([H:13])([H:14])[H:15])[C@@:5]([O:6][H:8])([H:9])[O:7]1)([H:10])([H:11])[H:12],40.95378750000677
MR_612232_1,[C:1](=[C:2](\[C:4](=[O:8])[H:14])[N:7](/[N:5]=[N:6]/[H:12])[H:13])(\[N:3]([H:10])[H:11])[H:9]>>[C:1]([C:2](/[N:5]=[N:6]/[H:12])=[N:7]\[H:13])([N:3]([H:10])[H:11])([C:4](=[O:8])[H:14])[H:9],63.805454999989024
MR_524000_0,[C:1]([C:3]([C:2]([N:4]([H:13])[H:14])([O:8][H:12])[O:9][H:11])=[C:5]([H:15])[H:16])([O:6][H:10])=[O:7]>>[C:1]([C:3]([C:2]([N:4]([H:13])[H:14])=[O:9])=[C:5]([H:15])[H:16])([O:6][H:10])([O:7][H:11])[O:8][H:12],33.182200000045725
MR_46821_0,[C:1]([C:3](/[C:5](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])[H:10])=[N:7]\[N:4]([H:8])[H:9])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[C:5]([H:10])[C@:6]([C:2]([H:15])([H:16])[H:17])([H:11])[N:7]1[N:4]([H:8])[H:9])([H:12])([H:13])[H:14],43.155684999976245
MR_180168_1,[C:1](/[C:5]([C:3](=[C:4]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])[O:9][H:10])=[C:8](/[C:2]([H:19])([H:20])[H:21])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:5]1=[C:3]([O:9][H:10])[C:4]([N:6]([H:11])[H:12])([N:7]([H:13])[H:14])[C:8]1([C:2]([H:19])([H:20])[H:21])[H:15])([H:16])([H:17])[H:18],43.33326749999159
MR_553264_1,[C:1](/[C:3]([C:2]([O:6][H:10])([H:13])[H:14])=[N:7]/[H:12])([O:4][H:8])([O:5][H:9])[H:11]>>[C:1]([C:3]1([N:7]([H:10])[H:12])[C:2]([H:13])([H:14])[O:6]1)([O:4][H:8])([O:5][H:9])[H:11],68.87377249999801
MR_361797_1,[N:1]1([H:9])[C:2]2(/[N:7]=[N:8]\[H:12])[N:5]1[C:3]([N:4]([H:10])[H:11])=[N:6]2>>[n:1]1([H:9])[c:2](/[N:7]=[N:8]\[H:12])[n:6][c:3]([N:4]([H:10])[H:11])[n:5]1,11.078512499994131
MR_128000_1,[C:1]([C:2](/[C:3]([C:4](=[O:7])[H:9])=[N:5]/[H:8])=[O:6])([H:10])([H:11])[H:12]>>[C:1]([C:2]1([C:4](=[O:7])[H:9])/[C:3](=[N:5]/[H:8])[O:6]1)([H:10])([H:11])[H:12],61.56779000000285
MR_402521_1,[C:1]([O:5][H:9])([O:6][H:8])(/[N:7]=[C:3](/[C:2]([H:13])([H:14])[H:15])[N:4]([H:11])[H:12])[H:10]>>[C:1](\[O:6][H:8])(=[N:7]\[C:3]([C:2]([H:13])([H:14])[H:15])([N:4]([H:11])[H:12])[O:5][H:9])[H:10],55.49359000000095
MR_462927_1,[C:1]([N:5]([N:4]([C:2]([H:13])([H:14])[H:15])[C:6]([C:3]([H:16])([H:17])[H:18])=[O:8])[H:10])([O:7][H:9])([H:11])[H:12]>>[C:1]([N:5]([N:4]([C:2]([H:13])([H:14])[H:15])[C:6]([C:3]([H:16])([H:17])[H:18])([O:8][H:9])[H:12])[H:10])(=[O:7])[H:11],59.8377724999834
MR_470894_0,[C:1]([N:4]([N:5]([C:2]([H:16])([H:17])[H:18])/[C:7](=[C:8](/[C:3]([H:19])([H:20])[H:21])[H:12])[H:11])[N:6]([H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([N:4]([N:6]([H:9])[H:10])[C:8]([C:3]([H:19])([H:20])[H:21])(/[C:7](=[N:5]/[C:2]([H:16])([H:17])[H:18])[H:11])[H:12])([H:13])([H:14])[H:15],41.04038250000215
MR_280529_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([N:5]([H:9])[H:10])[O:6][N:4]([H:7])[H:8]>>[C:1]([C:2]([H:11])([H:12])[H:13])([N:4]([H:7])[H:8])([N:5]([H:9])[H:10])[O:6][C:3]([H:14])([H:15])[H:16],73.14892999997639
MR_230939_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([N:4]([C:5](=[O:7])[H:10])[O:6][H:8])[H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([O:7]/[C:5](=[N:4]/[O:6][H:8])[H:10])[H:9],62.84977250001205
MR_145274_1,[C@@:1]1([N:8]=[C:5]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])([H:9])[C@:2]([C:4]([H:17])([H:18])[H:19])([H:10])[C:3]1([H:15])[H:16]>>[C:1]1([H:9])[C:3]([H:15])([H:16])[C@@:2]([C:4]([H:17])([H:18])[H:19])([H:10])[C:5]([N:6]([H:11])[H:12])([N:7]([H:13])[H:14])[N:8]1,61.919190000043045
